US04511581
A mixture of 2.0 g of ethyl o-methylbenzoate (12.2 m mol), 1.62 g of 4-aminoindan (12.2 m mol), 0.72 g of CH3ONa and 30 ml of benzene is stirred for 10 hours under reflux. After ice-cooling, the mixture is added to dilute hydrochloric acid and extracted with ethyl acetate. The organic layer is washed with water and concentrated. The resulting crystals are washed with n-hexane to give 2.0 g of N-4-indanyl-o-methylbenzamide (yield: 65.4%).

reactant | ethyl o-methylbenzoate | 2.0 g | CC1=C(C(=O)OCC)C=CC=C1 | C10H12O2
reactant | 4-aminoindan | 1.62 g | NC1=C2CCCC2=CC=C1 | C9H11N
reactant | CH3ONa | 0.72 g | CO[Na]
reactant | hydrochloric acid | Cl | ClH
solvent | benzene | 30 ml | C1=CC=CC=C1 | C6H6
product | N-4-indanyl-o-methylbenzamide | 2.0 g, yield: 65.4% | C1CCC2=C(C=CC=C12)NC(C1=C(C=CC=C1)C)=O | C17H17NO
